US08859777B2
Step 1: Preparation of Methyl 3-[4-(3-Benzyloxyphenyl)-4-fluoropiperidin-1-yl]propionate.
This compound was prepared from 4-(3-benzyloxyphenyl)-4-fluoropiperidine hydrochloride and methyl acrylate as described in Step 1 of Example 4 in 86% yield.

reactant | 4-(3-benzyloxyphenyl)-4-fluoropiperidine hydrochloride | Cl.C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1(CCNCC1)F
reactant | methyl acrylate | C(C=C)(=O)OC | C4H6O2
product | Methyl 3-[4-(3-Benzyloxyphenyl)-4-fluoropiperidin-1-yl]propionate | 86% yield | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1(CCN(CC1)CCC(=O)OC)F | C22H26FNO3
